Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Amiodarone
 
Attending: ___.
 
Chief Complaint:
Hypotension, altered mental status; hyperkalemia

 
Major Surgical or Invasive Procedure:
HD line placement
Thrombectomy of left brachial fistula (___)

 
History of Present Illness:
___ man with ESRD, diastolic and systolic CHF (EF 
___ and chronic atrial fibrillation on warfarin, chronic 
UTIs on bladder dwells who was found to be 
tachycardic/hypotensive prior to dialysis and was sent to the 
ED. In the ED, initial vs were:  96 52 84/45 12 100% ___ NC, 
patient was then found to be in Afib with RVR didn't respond to 
2.5mg IV Metop x 2. Lactate 4.8. WBC 13.7. CXR fluid overload vs 
infection. K 7.1, bicarb 14. Vanco and Cefepime given for 
empiric treatment of leukocytosis. Insulin/D50 given as well as 
Ca for peaked t-waves. Soon after, patient had emesis x2 (NBNB 
by report) but felt better afterwards. 

On the floor, patient appears somnolent but in NAD. Patient and 
wife report he has been having wet cough for the past week or so 
felt not to be bacterial and thus not started on any treatment 
(no fevers, chills). Not productive. 

Of note, pt has had several prior admissions for hypotension in 
setting of AFib with RVR. Per outpatient Cardiology notes, 
whenever he misses his home metoprolol this results in 
uncontrolled RVR and hypotension. His wife reports that she HELD 

his home metoprolol this morning beause of hypotension. Also of 
note, he had recent admission from ___ for non-heeling 
L heel ulcer. Debridement and bone fragment culture/path showed 
evidence of chronic osteomyelitis. Wound culture showed 1+ PMNs, 

culture negative. He was treated with empiric IV 
vanco/ceftazidime x6 week course which was completed in 
___. Wife states there has been more weeping from the 
ulcer in the past few days. 

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath, or wheezing. 
Denies chest pain, chest pressure, palpitations, or weakness. 
Denies nausea, vomiting, diarrhea, constipation, abdominal pain, 
or changes in bowel habits. Denies dysuria, frequency, or 
urgency. Denies arthralgias or myalgias. Denies rashes or skin 
changes.  

 
Past Medical History:
- ESRD (multifactorial ___ HTN and obstructive nephropathy). On 
dialysis since ___. Has LUE AVF. 
- Afib, on Coumadin
- HTN
- CHF (outpatient TTE ___ with LVEF ___ and subsequent 
recovery with EF 48% on office study ___ 
- Gout
- PVD
- Hypothyrodism
- Cricopharyngeal dysphagia ___ neck fracture
- Sleep apnea not on home CPAP
- Anemia of chronic disease ___ renal dysfunction
- NIDDM, resolved with weight loss, A1C<5% in ___ 
- H/O autonomic dysfunction, remitted (no longer on midodrine 
and fludrocortisone). Persistent volume-sensitive BP regulation. 


 
Social History:
___
Family History:
HTN
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
Vitals:  97.5, HR 145, 127/84, RR 24 100%
General: Alert, oriented, tired
HEENT: Sclera anicteric, MMM, PERRL
Neck: supple, no LAD, elevated JVD  
Lungs: Decreased breath sounds bibasilar crackles, no wheezes,  
ronchi  
CV: Tachycardic, irregular rate and rhythm, normal S1 + S2, no 
murmurs, rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 

DISCHARGE PHYSICAL EXAM:
Vitals: T:97.8 BP:121/59 P:89 R:20 O2:100% on 2L NC  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Decreased breath sounds at bilateral lung bases R>L, no 
wheezes or rhonchi noted
CV: Irregular rhythm, normal S1 + S2, no murmurs, rubs, gallops  

Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, no clubbing, cyanosis or edema; left 
foot with wound at heel- no sign of infection or purulent 
drainage; LUE with AV fistula with palpable thrill  
Skin: No rashes noted 
Neuro:  A&Ox3, moving all extremities, speech fluent 
 
Pertinent Results:
ADMISSION LABS: 
___ 12:45PM BLOOD WBC-13.7* RBC-3.73* Hgb-12.3* Hct-40.3 
MCV-108* MCH-33.1* MCHC-30.6* RDW-13.0 Plt ___
___ 12:45PM BLOOD Neuts-82.1* Lymphs-12.1* Monos-4.0 
Eos-0.8 Baso-1.0
___ 12:45PM BLOOD ___ PTT-27.1 ___
___ 12:45PM BLOOD Glucose-163* UreaN-67* Creat-7.3*# Na-137 
K-7.1* Cl-99 HCO3-14* AnGap-31*
___ 06:25PM BLOOD ALT-42* AST-67* AlkPhos-179* TotBili-0.3
___ 12:45PM BLOOD cTropnT-0.08*
___ 12:45PM BLOOD Calcium-10.5* Phos-6.5* Mg-2.8*
___ 12:52PM BLOOD Lactate-4.8*
.
LACTATE: 
___ 12:52PM BLOOD Lactate-4.8*
___ 04:59PM BLOOD Lactate-2.9*
___ 07:35PM BLOOD Lactate-1.5 K-6.6*
___ 11:44AM BLOOD Lactate-0.8
.
MICRO:
MRSA SCREEN (Final ___: POSITIVE FOR METHICILLIN RESISTANT 
STAPH AUREUS. 

___ 1:15 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 8:22 pm Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 

                            **FINAL REPORT ___

   Respiratory Viral Culture (Final ___: 
      No respiratory viruses isolated. 
      Culture screened for Adenovirus, Influenza A & B, 
Parainfluenza type
      1,2 & 3, and Respiratory Syncytial Virus.. 
      Detection of viruses other than those listed above will 
only be
      performed on specific request. Please call Virology at 
___
      within 1 week if additional testing is needed. 

   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to respiratory viral culture for further 
information. 

___ 11:05 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN.

___ 4:16 am SPUTUM      Source: Expectorated. 

   GRAM STAIN (Final ___: 
      <10 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 

   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED. 

BLOOD CULTURE (___): Negative as of discharge date

IMAGING: 
___ CXR:  
PORTABLE FRONTAL CHEST RADIOGRAPH:  The lung volumes are 
exceedingly low.  
Opacity at the right lung base is improved from prior and is 
likely a 
combination of atelectasis and pleural effusion.  Pneumonia 
cannot be entirely excluded.  There is improved aeration of the 
right upper lobe compared to prior.  Retrocardiac opacity may 
also reflect atelectasis but infection cannot be excluded, and 
there is likely a trace left pleural effusion.  There is no 
pneumothorax. Heart is moderately enlarged.  A tortuous and 
calcified aorta is again noted. There is mild distention of the 
stomach. 
.
___ CXR:   
There is a new right IJ line with tip in the SVC.  There is no 
pneumothorax.  There continues to be volume loss in both lower 
lungs and a large right and small left pleural effusion. 

CXR ___: IMPRESSION:  AP chest compared to ___: Large right pleural effusion is unchanged, still obscures 
most of the right lung.  Only the left upper lung is visibly 
clear.  Left lower lobe is also partially obscured and could be 
atelectatic or even consolidative.  Moderate
enlargement of the cardiac silhouette is longstanding.  No 
pneumothorax.  Left jugular line ends in the mid SVC.

DISCHARGE LABS:

___ 06:14AM BLOOD WBC-6.6 RBC-2.64* Hgb-8.6* Hct-26.7* 
MCV-101* MCH-32.5* MCHC-32.0 RDW-13.5 Plt ___
___ 06:14AM BLOOD ___ PTT-33.6 ___
___ 06:14AM BLOOD Glucose-87 UreaN-39* Creat-6.1*# Na-133 
K-4.2 Cl-97 HCO3-27 AnGap-13
___ 06:14AM BLOOD Calcium-9.4 Phos-4.1 Mg-2.2
___ 05:52AM BLOOD Vit___-___* Folate-18.___SSESSMENT AND PLAN: ___ yo M with history of end-stage renal 
disease, HTN, CHF, afib on warfarin who was admitted from 
dialysis for Afib with RVR, hypotension, hyperkalemic acidosis 
and leukocytosis. 
 
# Hypotension: Resolved following fluid resuscitation and 
correction of tachycardia and electrolyte dyscrasia.  Was likely 
secondary to his rapid ventricular rate with inadequate filling 
times with a component of relative hypovolemia. Ddx also 
included infection given leukocytosis on admission, lactate, and 
possible infiltrate on initial CXR as well as line exposure, 
however cultures were negative as of discharge and leukocytosis 
resolved.  Patient was treated with empirically with 
vanc/cefepime, however this was discontinued after ~ 48 hours 
due to lack of fevers and negative culture date and no clear 
source of infection.  Patient was continued on his home 
anti-hypertensive regimen, BPs remained stable. 

# Anemia: chronic, likely related to ESRD.  MCV was slightly 
elevated.  Previous iron studies in ___ c/w anemia of 
chronic disease, vit b12 normal at that time, folate normal in 
___.  Patient was asymptomatic - not tachy, no 
light-headedness/dizziness.  H/H was noted to have dropped since 
admission 12.3/40.3---->8.6/26.7, as had all cell lines. Was 
thouht likely related to marrow suppression from acute illness 
vs med effect (vancomycin).  Dilution also a possibility from 
ESRD and anuria.  Vitamin B12 and folate were noted to be within 
normal limits.  Smear was without schistocytes.  Recommend 
outpatient monitoring of CBC.

# Thrombocytopenia: Unclear etiology, 4T score = 3 making HIT 
unlikely.  All cell lines were noted to have decreased as above. 
 There was concern for marrow suppression, med effect, vs 
dilutional effect d/t fluid retention from ESRD, anuria.  There 
were no active signs of bleeding.  CBCs were monitored daily.  
Would recommend outpatient monitoring of CBC.
  
# ESRD: On date of admission, patient did not recieve dialysis 
___ hypotension; his potassium was > 7 with peaked T waves on 
EKG and he was anuric. nephrology and transplant, were unable to 
access the port, placed temp HD line and patient was dialyzed on 
___.  ___ performed fistulogram and thrombectomy on ___: per 
report achieved excellent angiographic result and patent fistula 
with palpable thrill at end of procedure.  Underwent HD via AV 
fistula on ___ without complications.
 
#Afib with RVR: Patient presented in RVR with low blood pressure 
related to poor filling times. Dilt gtt was started in MICU, 
returned to normal rate, then was continued on home metoprolol 
succinate 100mg daily.  Warfarin was held initially due to 
needed thrombectomy for thrombosed LUE AV fistula.  INR 
subsequently became subtherapeutic, he was restarted on warfarin 
on ___.  Per patient's outpatient PCP, was not to be bridged 
d/t bleeding risk.  He is anticoagulation is monitored at his 
dialysis unit and his outpatient nephrologist, Dr. ___.

# New O2 requirement - Resolved.  Patient required 2L O2 while 
inpatient, no O2 requirement at home.  Was likely related to 
pleural effusions and atalectasis.  Infection considered 
unlikely etiology given negative workup to date, lack of fevers 
and resolution of leukocytosis.  Patient was weaned off of O2 on 
___ after fluid removal at dialysis.  Patient's caretakers were 
advised to perform chest ___ ___ per day.
 
Chronic Issues:  
#Hyptohyroidism: continued on home Levothyroxine  

#Gout - continued on home allopurinol

TRANSITIONAL ISSUES:
# afib w/RVR - patient presented with afib w/RVR and associated 
hypotension, rate was controlled with dilt gtt and patient was 
then transitioned to his home metoprolol dose. rate remained 
well-controlled thereafter. 
# anticoagulation - patient's INR dropped in setting of holding 
coumadin - was held given need for ___ procedure (fistula 
thrombectomy). Patient was restarted on warfarin without 
bridging per PCP's (Dr. ___ recommendations given concern 
for bleeding. His INRs are monitored at his dialysis sessions by 
outpatient nephrologist Dr. ___. He should receive 3 mg 
warfarin on ___. Next dose to be determined by Dr. ___. 
Recommend next INR check on ___ at dialysis.
# Left heel wound - patient with left heel wound, does not 
appear infected, no purulent drainage. Patient will be seen by 
Dr. ___ follow-up this ___ (patient's 
family set up appt themselves, are aware of time and location).
# Right-sided pleural effusion - patient with right sided 
pleural effusion, chronic, required supplemental O2 (2L by nasal 
cannula), was weaned off on day of discharge. sats remained in 
the ___ on RA. Recommend follow-up to monitor oxygen/respiratory 
status and to ensure effusion is resolving/stable. Patient's 
family instructed by Dr. ___ to perform chest ___ ___ daily to 
assist with keeping airways patent.
# ESRD: patient with ESRD on HD. left AV fistula was thrombosed 
on admission, ___ performed thrombectomy. AV fistula was able to 
be used for dialysis on ___. He receives dialysis on 
___ at ___ and is followed by Dr. ___ 
as an outpatient. Per patient's PCP, ___ should resume 
his ___ dialysis schedule on discharge - next session 
should be on ___. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol 50 mg PO DAILY 
2. Nephrocaps 1 CAP PO DAILY 
3. Cinacalcet 30 mg PO BID 
4. Docusate Sodium 100 mg PO BID 
5. Levothyroxine Sodium 100 mcg PO DAILY 
6. Neomycin-Polymyxin B GU 1 mL / 1000 ml SW ___ Q24H 
7. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
8. Sucralfate 1 gm PO TID 
9. Metoprolol Succinate XL 100 mg PO DAILY 
10. Furosemide 80 mg PO 4X/WEEK (___) 
11. Finasteride 5 mg PO DAILY 
12. Clotrimazole Cream 1 Appl TP BID 
13. Pantoprazole 40 mg PO Q12H 
14. ___  MD to order daily dose PO DAILY16 

 
Discharge Medications:
1. Allopurinol 50 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Furosemide 80 mg PO 4X/WEEK (___) 
4. Levothyroxine Sodium 100 mcg PO DAILY 
5. Metoprolol Succinate XL 100 mg PO DAILY 
6. Neomycin-Polymyxin B GU 1 mL / 1000 ml SW ___ Q24H 
7. Nephrocaps 1 CAP PO DAILY 
8. Pantoprazole 40 mg PO Q12H 
9. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
10. Sucralfate 1 gm PO TID 
11. ___  MD to order daily dose PO DAILY16 
12. Cinacalcet 30 mg PO BID 
13. Clotrimazole Cream 1 Appl TP BID 
14. Finasteride 5 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Hyperkalemia secondary to renal failure, volume depletion and 
acidosis
Atrial fibrillation with excessive rate respnse
Thrombosed fistula s/p mechanical thrombectomy and fistulogram

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___,

It was a pleasure caring for you during your admission to ___ 
___.  You were admitted due to low 
blood pressures, a rapid heart rate, and increased white blood 
cell count.  Your heart rate was controlled with medications and 
returned to normal limits.  Your low blood pressures resolved 
with the resolution of your rapid heart rate.  You were worked 
up for an infection due to your high white blood cell count and 
were treated empirically with antibiotics.  Your infectious 
workup was negative as of your discharge and the antibiotics 
were discontinued.  Your AV fistula become clotted, and you 
underwent a procedure to unclot the fistula.  The fistula was 
determined to be okay to use after the clot was removed and you 
underwent dialysis on ___.  Your next dialysis session will be 
on ___.  You should have your INR checked at dialysis tomorrow, 
and you should take 3mg of warfarin tonight (your home dose per 
your dialysis center).  You should also continue to have chest 
physical therapy ___ times daily per Dr. ___ instructions to 
assist in keeping your airways open.  You were seen by physical 
therapy and it was determined you were safe to be discharged to 
home.  Should you develop shortness of breath, chest pain, or 
fevers, please seek evaluation at a medical facility or at your 
nearest emergency department.
 
Followup Instructions:
___